US09255090B2
To a solution of 2-(2-fluoro-5-methoxy-phenyl)-ethylamine (4.30 g, 25.4 mmol, 1.0 eq.) in MeOH (100 mL), glyoxal dimethyl acetal (60% aqueous solution, 5.73 g, 33.0 mmol, 1.3 eq.) was added. The resulting yellow solution was stirred at r.t. for 18 hours. The yellow solution was cooled to 0° C. and sodium borohydride (1.44 g, 38.1 mmol, 1.5 eq.) was added portionwise. The cooling bath was removed and the yellow solution was stirred at r.t. for 2 hours. The reaction mixture was concentrated in vacuo. The residue was diluted with water (50 mL) and DCM (100 mL). The layers were separated. The aq. phase was extracted with DCM (2×50 mL). The comb. org. phases were washed with water (1×150 mL), sat. aq. NaCl soln. (1×50 mL), dried over MgSO4, and concentrated in vacuo to give N-(2-fluoro-5-methoxyphenethyl)-2,2-dimethoxyethanamine. The product was used without further purification.

reactant | 2-(2-fluoro-5-methoxy-phenyl)-ethylamine | 25.4 mmol, 4.30 g, 1.0 eq. | FC1=C(C=C(C=C1)OC)CCN | C9H12FNO
reactant | glyoxal dimethyl acetal | 33.0 mmol, 5.73 g, 1.3 eq. | COC(C=O)OC | C4H8O3
reactant | sodium borohydride | 38.1 mmol, 1.44 g, 1.5 eq. | [BH4-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | N-(2-fluoro-5-methoxyphenethyl)-2,2-dimethoxyethanamine | FC1=C(CCNCC(OC)OC)C=C(C=C1)OC | C13H20FNO3
